US08012966B2
A stirred solution of ethyl-[2-(2-formyl-3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-ethyl]-carbamic acid tert-butyl ester (160 mg, 0.458 mmol), 5-fluoro-1,3-dihydro-indol-2-one (65.76 mg, 0.435 mmol) in 0.803, ml of ethanol was added dropwise with anhydrous piperidine (0.022 ml). The mixture was stirred overnight at room temperature until a precipitate was formed. The precipitate was filtered under reduced pressure and washed with ethanol (0.3 ml×3) to give ethyl-{2-[2-(6-fluoro-2-oxo-indan-1-ylidenemethyl)-3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl]-ethyl}-carbamic acid tert-butyl ester (111 mg, 50%) as a yellow solid.

reactant | ethyl-[2-(2-formyl-3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl)-ethyl]-carbamic acid tert-butyl ester | 0.458 mmol, 160 mg | C(C)(C)(C)OC(N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC)=O | C18H27N3O4
reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.435 mmol, 65.76 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | piperidine | 0.022 ml | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | ethyl-{2-[2-(6-fluoro-2-oxo-indan-1-ylidenemethyl)-3-methyl-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-5-yl]-ethyl}-carbamic acid tert-butyl ester | 111 mg, 50% | C(C)(C)(C)OC(N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(CC1=CC=C(C=C21)F)=O)=O)CC)=O | C27H32FN3O4
